US04650804
To a solution of 3-ethoxycarbonyl-1-benzoyl-4H-quinolizin-4-one (2.14 g) in chloroform (65 ml) was added dropwise trimethylsilyliodide (1.04 ml) at 0° C. After stirring for 30 minutes at 0° C., trimethylsilyliodide (1.04 ml) was added. After stirring for hour at room temperature, trimethylsilyliodide (1.04 ml) was added. After stirring for 2 hours at room temperature, the reaction mixture was diluted with chloroform and washed with water. After drying over magnesium sulfate, the chloroform extract was filtered and concentrated. The precipitate was washed with a cold chloroform to give 1-benzoyl-4H-quinolizin-4-one-3-carboxylic acid (1.252 g) as yellow crystals.

reactant | 3-ethoxycarbonyl-1-benzoyl-4H-quinolizin-4-one | 2.14 g | C(C)OC(=O)C1=CC(=C2C=CC=CN2C1=O)C(C1=CC=CC=C1)=O | C19H15NO4
reactant | trimethylsilyliodide | 1.04 ml | C[Si](C)(C)I | C3H9ISi
reactant | trimethylsilyliodide | 1.04 ml | C[Si](C)(C)I | C3H9ISi
reactant | trimethylsilyliodide | 1.04 ml | C[Si](C)(C)I | C3H9ISi
solvent | chloroform | 65 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-benzoyl-4H-quinolizin-4-one-3-carboxylic acid | 1.252 g | C(C1=CC=CC=C1)(=O)C=1C=C(C(N2C=CC=CC12)=O)C(=O)O | C17H11NO4
